US08703805B2
To a suspension of 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)-1H-pyrazole-3-carboxylic acid (160 mg, 0.35 mmol) in PhH (1.0 mL) was added a small amount of DMF. Oxalyl chloride (60 μL, 0.69 mmol) was added to the suspension. After stirring for 15 minutes at ambient temperature, gas evolution had ceased and only part of the solids had dissolved. After 25 minutes dioxane (2.0 mL) was added. There was renewed gas evolution and most of the solids dissolved. After 30 minutes additional oxalyl chloride (50 μL, 0.57 mmol) was added. There was vigorous gas evolution and after a total of 90 minutes stirring the reaction mixture was concentrated under reduced pressure to afford 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)-1H-pyrazole-3-carbonyl chloride as a pale brown foam. This material was carried on to the subsequent acylation without purification.

reactant | 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)-1H-pyrazole-3-carboxylic acid | 0.35 mmol, 160 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)O | C21H15ClN2O4S2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 0.69 mmol, 60 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
reactant | oxalyl chloride | 0.57 mmol, 50 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | PhH | 1.0 mL | C1=CC=CC=C1 | C6H6
product | 1-(2-chlorophenyl)-5-(5-(3-(methylsulfonyl)phenyl)thiophen-2-yl)-1H-pyrazole-3-carbonyl chloride | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)Cl | C21H14Cl2N2O3S2
